US04839357
A. Methyl-3-carboxy-2(R)-(1-naphthylmethyl)propionic Acid
To solution of potassium (2.15 gm) in t-butanol (45 ml) at room temperature was added dropwise a solution of dimethylsuccinate (14 ml) and 1-naphthaldehyde (7.5 ml). The reaction mixture was then heated to reflux for a period of 30 min. whereupon, it was cooled to 0° C. The reaction mixture was made acidic with HCl (6N, 10 ml) and evaporated in vacuo. The reaction mixture was partitioned between water and diethyl ether and the combined organic fractions were extracted with NH4OH (1N) four times. The combined basic fractions were washed with diethyl ether, and acidified with HCl (3N), and extracted thoroughly with methylene chloride. The combined organic fractions were dried over Na2SO4, filtered and evaporated in vacuo. Without purification the crude methyl-4-carboxy-2-(1-naphthylmethylene)-propionate was dissolved in methanol (100 ml) and to this solution at 0° C. slowly added magnesium turnings (2.3 gm) over a 3 hr period. When all the magnesium had been consummed, the reaction mixture was poured into HCl (carefully, 3N, 150 ml). The reaction mixture was extracted with diethyl ether, dried over Na2SO4, filtered and evaporated in vacuo to give the title compound in its racemic form. This material has been resolved with (+) methylbenzylamine in diethyl ether. Thus 5.2 gm of racemic material has been converted to 2.2 gm of pure R(+) title compound. [α]D =+48.56 (EtOAc). NMR (CDCl3) 2.4-2.5 (dd, 1H), 2.7-2.85 (2d, 1H), 3.05-3.15 (ABq, 1H), 3.55-3.7 (m, 1H), 3.7 (S, 3h), 7.27 (d, 1H), 7.3-7.4 (t, 1H), 7.45-7.6 (m, 2H), 7.75 (d, 1H), 7.85 (d, 1H), 8.05 (d, 1H).

reactant | potassium | 2.15 gm | [K] | K
reactant | dimethylsuccinate | 14 ml | COC(CCC(=O)OC)=O | C6H10O4
reactant | 1-naphthaldehyde | 7.5 ml | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | HCl | 6N, 10 ml | Cl | ClH
reactant | t-butanol | 45 ml | C(C)(C)(C)O | C4H10O
product | Methyl-3-carboxy-2(R)-(1-naphthylmethyl)propionic Acid | C[C@](C(=O)O)(CC(=O)O)CC1=CC=CC2=CC=CC=C12 | C16H16O4
